US06706924B2
reaction of ortho-nitrotoluene with acrylonitrile to give 4-(2-nitrophenyl)-butyronitrile,

reactant | ortho-nitrotoluene | [N+](=O)([O-])C1=C(C=CC=C1)C | C7H7NO2
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | 4-(2-nitrophenyl)-butyronitrile | [N+](=O)([O-])C1=C(C=CC=C1)CCCC#N | C10H10N2O2
